US07504411B2
Synthesis of 2-mercapto-3-methyl-6-(4-pyrimidyl)-3H-pyrimidin-4-one
A solution of ethyl 3-oxo-3-(4-pyrimidyl)propionate (34.1 g, 176 mmol), N-methyl thiourea (47.5 g, 527 mmol) and 1,8-diazabicyclo[5,4,0]-7-undecene (26.3 ml, 176 mmol) in ethanol (340 ml) was refluxed for 2 hours and the solution of methanesulfonic acid (16.9 g, 176 mmol) in water (70 ml) was added after cooling by ice-water. The precipitate was washed with water, filtered and dried to give the title compound (30.2 g, 78%).

reactant | ethyl 3-oxo-3-(4-pyrimidyl)propionate | 176 mmol, 34.1 g | O=C(CC(=O)OCC)C1=NC=NC=C1 | C9H10N2O3
reactant | N-methyl thiourea | 527 mmol, 47.5 g | CNC(=S)N | C2H6N2S
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 176 mmol, 26.3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methanesulfonic acid | 176 mmol, 16.9 g | CS(=O)(=O)O | CH4O3S
solvent | ethanol | 340 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
product | 2-mercapto-3-methyl-6-(4-pyrimidyl)-3H-pyrimidin-4-one | 30.2 g, 78% | SC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H8N4OS
